US04636563
8-Chloro-2,3,4,5-tetrahydro-2-[2-(2-quinolinyl)ethyl]-1H-pyrido-[4,3-b]indole
The title compound was prepared following the procedure of Example 2 with the exception that 8-chloro-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole was used instead of 8-fluoro-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole and 2-vinylquinoline was used instead of 2-vinylpyridine. The product was converted to the dihydrochloride salt; mp 187°-190° C.

reactant | 8-chloro-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | ClC1=CC=2C3=C(NC2C=C1)CCNC3 | C11H11ClN2
reactant | 2-vinylquinoline | C(=C)C1=NC2=CC=CC=C2C=C1 | C11H9N
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | 8-Chloro-2,3,4,5-tetrahydro-2-[2-(2-quinolinyl)ethyl]-1H-pyrido-[4,3-b]indole | ClC1=CC=2C3=C(NC2C=C1)CCN(C3)CCC3=NC1=CC=CC=C1C=C3 | C22H20ClN3
